US07932281B2
Synthesis of 5-t-butoxycarbonylamino-(2S)-(9H-fluoren-9-ylmethoxycarbonylamino)-pentanoic acid ethyl ester
In DMF (50.0 ml), 5-t-butoxycarbonylamino-(2S)-(9H-fluoren-9-ylmethoxycarbonylamino)-pentanoic acid (2.50 g) was dissolved. The solution was added with WSCI hydrochloride (1.21 g) and HOBt (0.84 g) and the whole was stirred at room temperature for 1.5 hours. The solution was added with ethanol (1.0 ml) and the whole was stirred at room temperature for additional 17 hours. After completion of the reaction, the solvent was distilled off. The residue was dissolved in chloroform and washed with a 1 mol/l sodium hydroxide aqueous solution, followed by extraction with chloroform. The organic layer was washed with a saturated saline solution and dried with anhydrous sodium sulfate. After filtration, the solvent was distilled off. The residue was purified through silica gel column chromatography (hexane/ethyl acetate), thereby obtaining the subject compound (1.22 g) as a white solid.

reactant | 5-t-butoxycarbonylamino-(2S)-(9H-fluoren-9-ylmethoxycarbonylamino)-pentanoic acid | 2.50 g | C(C)(C)(C)OC(=O)NCCC[C@@H](C(=O)O)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C25H30N2O6
reactant | WSCI hydrochloride | 1.21 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.84 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ethanol | 1.0 ml | C(C)O | C2H6O
solvent | DMF | 50.0 ml | CN(C)C=O | C3H7NO
product | 5-t-butoxycarbonylamino-(2S)-(9H-fluoren-9-ylmethoxycarbonylamino)-pentanoic acid ethyl ester | 1.22 g | C(C)OC([C@H](CCCNC(=O)OC(C)(C)C)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C27H34N2O6
